US04105776
1-[3-[[(Methylamino)thiocarbonyl]thio]propanoyl]-L-proline tertbutyl ester (0.98 g) is dissolved in a mixture of anisole (3.6 ml) and trifluoroacetic acid (7.5 ml). After one hour at room temperature the mixture is concentrated to dryness in vacuo and the residue precipitated from ether-hexane three times. This material is chromatographed on a column of silica gel with a solvent mixture of benzene-acetic acid (75:25) to yield 1-[3-[[(methylamino)thiocarbonyl]thio]propanoyl]-L-proline, Rf = 0.4 [silica gel-benzene:acetic acid (75:25)]. The dicyclohexylammonium salt has m.p. 127°-129°.

reactant | 1-[3-[[(Methylamino)thiocarbonyl]thio]propanoyl]-L-proline tertbutyl ester | 0.98 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(CCSC(=S)NC)=O)=O | C14H24N2O3S2
solvent | anisole | 3.6 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 7.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[3-[[(methylamino)thiocarbonyl]thio]propanoyl]-L-proline | CNC(=S)SCCC(=O)N1[C@H](C(=O)O)CCC1 | C10H16N2O3S2
